US09326987B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
To a solution of N-[5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide (106 mg, 0.162 mmol) in 1,4-dioxane (1 ml) was added 2M sodium hydroxide (1 ml, 2.000 mmol) and the mixture stirred at 20° C. for 18 h. The mixture was evaporated in vacuo and the residue partitioned between ethyl acetate (10 ml) and saturated ammonium chloride (5 ml), separated by hydrophilic frit and purified by silica (5 g) cartridge using a gradient of dichloromethane and methanol to give a pale brown solid 50 mg which was purified by MDAP to give the title compound as a white solid (32 mg).

reactant | N-[5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 0.162 mmol, 106 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1 | C29H31N7O7S2
reactant | sodium hydroxide | 2.000 mmol, 2M, 1 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 50 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C | C23H27N7O5S
